* NGSPICE file created from rc_filter.ext - technology: gf180mcuD

.subckt rc_filter vin vout vss
X0 vin vout VSUBS ppolyf_u r_width=1u r_length=4u
X1 vout vss cap_mim_2f0_m4m5_noshield c_width=5u c_length=5u
.ends

